US05472949
A solution of sodium iodide (3.6 g) and chlorotrimethylsilane (794 ml) in dry acetonitrile (15 ml) was stirred with molecular sieves 4A (200 mg) at 0° C. for 5 minutes (colorless sodium chloride deposited during stirring). 1,2,3-Tri-O-acetyl-5-deoxy-β-D-ribofuranose (2.0 g) was added and the mixture was stirred at 0° C. for 30 min. Then, a solution of the trimethylsilylated 5-fluorocytosine, freshly prepared from 5-fluorocytosine (1.12 g), in dry acetonitrile (5 ml) was added at 0° C. and stirring was continued for 3 h at room temperature. The mixture was filtered, the filtrate was concentrated in vacuo, and the residue was partitioned between dichloromethane and saturated aq. sodium bicarbonate solution. The aqueous layer was extracted with CH2Cl2 /MeOH (10:1). The combined organic layers were dried over anhydrous sodium sulfate and evaporated under reduced pressure. The residue was purified by silica gel chromatography using CH2Cl2 /MeOH (15:1) as an eluent, followed by recrystallization from isopropanol to give 1.24 g of 2',3'-di-O-acetyl-5'-deoxy-5-fluorocytidine.

reactant | sodium iodide | 3.6 g | [I-].[Na+]
reactant | chlorotrimethylsilane | 794 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium chloride | [Cl-].[Na+]
reactant | 1,2,3-Tri-O-acetyl-5-deoxy-β-D-ribofuranose | 2.0 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C | C11H16O7
reactant | 5-fluorocytosine | 1.12 g | FC=1C(=NC(NC1)=O)N | C4H4FN3O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2',3'-di-O-acetyl-5'-deoxy-5-fluorocytidine | 1.24 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C)N1C(=O)N=C(N)C(=C1)F | C13H16FN3O6
